US08217066B2
Synthesis of N-(1-{4′-[4-(1-Hydroxy-4-phenyl-butyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-4-methyl-benzenesulfonamide (Compound 78)
N-[1-(4′-{4-[1-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarbonyl]-4-methyl-benzenesulfonamide (0.121 g, 0.165 mmol) was dissolved in THF (3 mL) then tetrabutylammonium fluoride (1.0 M in THF, 0.500 mL, 0.500 mmol) was added. The reaction was stirred at room temperature and monitored by analytical TLC until complete. The mixture was submitted to standard aqueous workup then purified on silica gel to afford the title compound.

reactant | N-[1-(4′-{4-[1-(tert-butyl-dimethyl-silanyloxy)-4-phenyl-butyl]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarbonyl]-4-methyl-benzenesulfonamide | 0.165 mmol, 0.121 g | C(C)(C)(C)[Si](OC(CCCC1=CC=CC=C1)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)C)(C)C | C43H50N2O5SSi
reactant | tetrabutylammonium fluoride | 0.500 mmol, 1.0 M, 0.500 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(1-{4′-[4-(1-Hydroxy-4-phenyl-butyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarbonyl)-4-methyl-benzenesulfonamide | OC(CCCC1=CC=CC=C1)C=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)C | C37H36N2O5S
